US07709481B2
Bromo-4-methyl-benzene of general formula H-1, where B, R1, R2, R3 and R4 are as defined above is reacted with copper cyanide in a polar solvent as dimethylformamide at elevated temperature to obtain the 4-methyl-benzonitrile of general formula H-2. The 4-methyl-benzonitrile of general formula H-2 is brominated by the treatment with N-bromosuccinimide in refluxing tetrachloromethane in the presence of a radical initiator like AIBN to obtain the 4-Bromomethyl-benzonitrile of general formula H-3.

reactant | Bromo-4-methyl-benzene | BrC1=CC=C(C=C1)C | C7H7Br
reactant | copper cyanide | [Cu](C#N)C#N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-methyl-benzonitrile | CC1=CC=C(C#N)C=C1 | C8H7N
